### PR TITLE
feat(Algebra/Module): properties of absolutely flat

### PR DESCRIPTION
**Pull request by xyzw12345**
In this PR, we proved some basic properties of absolutely flat rings, and we showed that a ring which is weakly etale over an absolutely flat ring is still absolutely flat.

### CODE REVIEW

File: blueprint/src/chapters/more-on-local-structure.tex [hunk 1]
```diff
@@ -170,27 +172,146 @@ \section{Weakly étale algebras}
...
     \[
         N \otimes_B N' = B \otimes_{B \otimes_{A} B} (N \otimes_{A} N')
     .\]
     Hence this follows from the definitions.
 \end{proof}
 
+% Note: Another proof by Gemmini using element chasing
+
+% \begin{theorem}
+% Let $A$ be a commutative ring, and let $B$ be an $A$-algebra such that the multiplication map $\mu: B \otimes_A B \to B$ is flat. Let $M$ be a $B$-module. If $M$ is flat as an $A$-module, then $M$ is flat as a $B$-module.
```
Comment (chrisflav) [inline blueprint/src/chapters/more-on-local-structure.tex]: I think it would be nice to include this proof in the blueprint. You could just say: "First proof: ..... Second proof: ....".

File: Proetale/Algebra/WeakDimension.lean [hunk 2]
```diff
@@ -30,3 +47,138 @@ lemma flat_submodule [Ring.WeakDimensionLEOne R] {M : Type*} [AddCommGroup M] [M
...
+lemma _root_.Module.Flat.of_isField {k N : Type*} [CommRing k] (h : IsField k)
+    [AddCommGroup N] [Module k N] : Module.Flat k N := by
+  -- `obtain` is used to erase the value so that `subst` doesn't give a recursive error.
+  obtain ⟨inst, h⟩ : ∃ inst : Field k, ‹CommRing k› = inst.toCommRing := ⟨h.toField, rfl⟩
+  subst h
+  infer_instance
+
+lemma _root_.IsReduced.of_isField {k : Type*} [CommRing k] (h : IsField k) : IsReduced k := by
+  obtain ⟨inst, h⟩ : ∃ inst : Field k, ‹CommRing k› = inst.toCommRing := ⟨h.toField, rfl⟩
+  subst h
```
Comment (chrisflav) [inline Proetale/Algebra/WeakDimension.lean]: Are these proofs by Aristotle? In any case, you should be able to just do:
```suggestion
  let := h.toField
```
Same everywhere else where this pattern is used.

**Comment by chrisflav** [comment]
Thanks! This is great!

File: Proetale/Algebra/WeakDimension.lean (hunk 2 above)
Comment (xyzw12345) [reply Proetale/Algebra/WeakDimension.lean]: Not really, actually I wrote that proof. I thought I would need to replace the `CommRing` instances by the one obtained from `IsField.toField`, since `Field` contains data. But I'll try your approach and see if it works.

Comment (chrisflav) [reply Proetale/Algebra/WeakDimension.lean]: This is a very reasonable thought, but if you look at the implementation of `IsField.toField` you can see that it is in fact setup in the correct way: https://github.com/leanprover-community/mathlib4/blob/7d9358ee9d5cda161276d970bc1b77cb69b732e8/Mathlib/Algebra/Field/IsField.lean#L84-L90.
Also, otherwise `⟨h.toField, rfl⟩` would not work (the `rfl` would not succeed).

Comment (xyzw12345) [reply Proetale/Algebra/WeakDimension.lean]: Yeah, I agree. I checked and it actually worked.

Comment (xyzw12345) [reply Proetale/Algebra/WeakDimension.lean]: Then do we still want these lemmas? Or should I just let := h.toField everywhere I want to use this?

Comment (chrisflav) [reply Proetale/Algebra/WeakDimension.lean]: Yeah probably we just do `let := h.toField` whenever you need it.

Comment (xyzw12345) [reply Proetale/Algebra/WeakDimension.lean]: Sure!

**Comment by xyzw12345** [comment]
I also uncommented the other element chasing proof (which is the one that directly proves weakly etale ring over absolutely flat is absolutely flat)

**Comment by xyzw12345** [comment]
wait, I found a place that needs refactoring. I didn't mention the surjectivity condition for the lemma about pure ideals that I quoted from mathlib.

Edit: fixed now.

**Review by chrisflav — APPROVED** [review]
Thanks a lot!
